US08466289B2
Synthesis of Intermediate 8-Amino-7-(2-fluoro-4-iodo-phenylamino)-6-methyl-2,3-dihydro-oxazolo[3,2-a]pyridin-5-one (I-7f)
Concentrated HCl (0.2 mL) and SnCl2.H2O (0.24 g, 1.06 mmol) were added to 7-(2-fluoro-4-iodo-phenylamino)-6-methyl-8-nitro-2,3-dihydro-oxazolo[3,2-a]pyridin-5-one (0.15 g, 0.347 mmol) in ethanol (5 mL). The resulting mixture was heated to reflux for 2 hours. The reaction was monitored by TLC (100% ethylacetate). The reaction mixture was cooled to room temperature, diluted with ethylacetate, basified with saturated bicarbonate solution and filtered through celite. The organic layer was washed with brine solution, dried over Na2SO4 and concentrated to afford 0.08 g of the crude product which was used in the next step without further purification.

reactant | HCl | 0.2 mL | Cl | ClH
reactant | SnCl2.H2O | 1.06 mmol, 0.24 g | Cl[Sn]Cl.O
reactant | 7-(2-fluoro-4-iodo-phenylamino)-6-methyl-8-nitro-2,3-dihydro-oxazolo[3,2-a]pyridin-5-one | 0.347 mmol, 0.15 g | FC1=C(C=CC(=C1)I)NC=1C(=C2N(C(C1C)=O)CCO2)[N+](=O)[O-] | C14H11FIN3O4
reactant | bicarbonate | C([O-])(O)=O
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
product | 8-Amino-7-(2-fluoro-4-iodo-phenylamino)-6-methyl-2,3-dihydro-oxazolo[3,2-a]pyridin-5-one | 0.08 g | NC1=C2N(C(C(=C1NC1=C(C=C(C=C1)I)F)C)=O)CCO2 | C14H13FIN3O2
